US04734423
A solution of N-(3,4-dichlorobenzoyl)proline (28.813 g 0.1 mol) in acetic anhydride (100 mL) and dimethyl acetylenedicarboxylate (50 mL) was stirred in a flask equipped with a reflux condenser and a gas bubbler to monitor CO2 evolution during the reaction. The mixture was heated to 120° C. over a 15-min period, during which time CO2 evolution occurred at an increasingly rapid rate; the temperature was maintained for 1 h after the rate of gas evolution had substantially decreased. The reaction mixture was concentrated in vacuo and the residue, which solidified on cooling, as twice crystallized from hot methanol (500 mL) to yield 33.35 g (91%) of dimethyl 2,3-dihydro-5-(3,4-dichlorophenyl)-1H-pyrrolizine-6,7-dicarboxylate as analytically pure fine white needles.

reactant | N-(3,4-dichlorobenzoyl)proline | 0.1 mol, 28.813 g | ClC=1C=C(C(=O)N2[C@H](C(=O)O)CCC2)C=CC1Cl | C12H11Cl2NO3
reactant | CO2 | C(=O)=O | CO2
reactant | dimethyl acetylenedicarboxylate | 50 mL | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
product | dimethyl 2,3-dihydro-5-(3,4-dichlorophenyl)-1H-pyrrolizine-6,7-dicarboxylate | 33.35 g, 91% | ClC=1C=C(C=CC1Cl)C=1N2CCCC2=C(C1C(=O)OC)C(=O)OC | C17H15Cl2NO4
